US06403791B1
4-Difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid (2-methyl-2H-pyrazole-3-yl)-amide
Starting from 4-difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid 4-nitro-phenyl ester (100 mg) and 2-methyl-2H-pyrazole-3-ylamine (51 mg). Purification by column chromatography on silica eluting with ethyl acetate afforded, after trituration with a mixture of diethyl ether and hexane, the title compound as a pale yellow solid (14mg).

reactant | 4-difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid 4-nitro-phenyl ester | 100 mg | [N+](=O)([O-])C1=CC=C(C=C1)OC(=O)C1=CC=C(C=2N=C(OC21)CC)OC(F)F | C17H12F2N2O6
reactant | 2-methyl-2H-pyrazole-3-ylamine | 51 mg | CN1N=CC=C1N | C4H7N3
reactant | diethyl ether | C(C)OCC | C4H10O
solvent | hexane | CCCCCC | C6H14
product | 4-Difluoromethoxy-2-ethylbenzooxazole-7-carboxylic acid (2-methyl-2H-pyrazole-3-yl)-amide | 14mg | CN1N=CC=C1NC(=O)C1=CC=C(C=2N=C(OC21)CC)OC(F)F | C15H14F2N4O3
